US07772245B2
To a stirred solution of N-(tetrahydro-2H-pyran-2-yloxy)-2-[1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide (120 mg, mmol) in DMF (5 mL) was added sodium hydride (22 mg) at 0° C. and the mixture was stirred for 20 min. Acetyl chloride (30 mg, mmol) was added and the reaction was allowed to attain room temperature and stirred 3 hours. After completion, the reaction mixture was partitioned between EtOAc and water. The organic layer was separated and washed with water, saturated sodium bicarbonate and concentrated. Pure N-(tetrahydro-2H-pyran-2-yloxy)-2-[9-acetyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide (80 mg, 60% yield) was obtained by column chromatography m/e=436 (M+1).

reactant | N-(tetrahydro-2H-pyran-2-yloxy)-2-[1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide | 120 mg | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC=2NC3=CC=CC=C3C2CC1 | C21H23N5O3
reactant | sodium hydride | 22 mg | [H-].[Na+]
reactant | Acetyl chloride | 30 mg | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(tetrahydro-2H-pyran-2-yloxy)-2-[9-acetyl-1,3,4,9-tetrahydro-2H-b-carbolin-2-yl]pyrimidine-5-carboxamide | 80 mg, 60% yield | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC=2N(C3=CC=CC=C3C2CC1)C(C)=O | C23H25N5O4
